US09447039B2
To an argon purged solution of ethyl 4,6-dichloro-1H-indole-2-carboxylate (I-1c: 1 g, 3.89 mmol) in DMF (8 mL) were added dicyanozinc (1.37 g, 11.67 mmol), Pd2(dba)3 (356 mg, 0.389 mmol) followed by Xphos (166 mg. 0.389 mmol), the mixture was then stirred in microwave at 160° C. for 14 h. The resultant reaction mixture was allowed to cool to room temperature, diluted with water (10 mL) and ammonia solution (2 mL; Specific Gravity 0.91). The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layer was washed with water, brine, dried over anhydrous Na2SO4 solution and concentrated. The crude compound was purified by column chromatography over silica gel (100-200 mesh) using a solvent gradient of 6% ethyl acetate in chloroform as eluent to afford 300 mg (32%) of ethyl 4,6-dicyano-1H-indole-2-carboxylate (I-2a) as a brown solid.

reactant | ethyl 4,6-dichloro-1H-indole-2-carboxylate | 3.89 mmol, 1 g | ClC1=C2C=C(NC2=CC(=C1)Cl)C(=O)OCC | C11H9Cl2NO2
reactant | dicyanozinc | 11.67 mmol, 1.37 g | C(#N)[Zn]C#N
reactant | Xphos | 0.389 mmol, 166 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
solvent | ammonia | 2 mL | N | H3N
catalyst | Pd2(dba)3 | 0.389 mmol, 356 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 4,6-dicyano-1H-indole-2-carboxylate | 300 mg, 32% | C(#N)C1=C2C=C(NC2=CC(=C1)C#N)C(=O)OCC | C13H9N3O2
